US05114463
Preparation of methoxymethyl 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate (Compound No. 1)
1.5 g (3.5 mmol) of 2,6-bis[(4.6-dimethoxypyrimidin-2-yl)oxy]benzoic acid was dissolved in N,N-dimethylformamide, and 0.1 g of 60% sodium hydride was added to the resultant solution with stirring. After the generation of hydrogen ceased, 0.4 g of chloromethylmethylether was added to the solution and the resultant mixture was reacted at 100° C. for 3 hours. After completing the reaction, ice water and ethyl acetate were added to the reaction mixture, and the ethyl acetate layer was separated and washed with water. The washed ethyl acetate layer was then dried to be concentrated, and an oily product obtained thereby was subjected to column purification to obtain 1.0 g of a white crystal having a melting point of from 95° to 96° C.

reactant | 2,6-bis[(4.6-dimethoxypyrimidin-2-yl)oxy]benzoic acid | 3.5 mmol, 1.5 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C19H18N4O8
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | chloromethylmethylether | 0.4 g | ClCOC | C2H5ClO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methoxymethyl 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | 1.0 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCOC)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C21H22N4O9
